### PR TITLE
Stuff from `rt`

### PR DESCRIPTION
**Pull request by michaelmcinerney**
This adds definitions and lemmas that were added to the `rt` branch, including many things related to while loops at both Refine and CRefine levels

### CODE REVIEW

**Comment by michaelmcinerney** [comment]
I'd be happy to write a more comprehensive commit message for the first commit, and to remove the `rt` from the commit message of the last commit

**Comment by michaelmcinerney** [comment]
The lemma `ccorresE_gets_the` in `Corres_UL_C.thy` requires `no_ofail`, which isn't visible at that point, as is. I'm not sure of the best approach to fix this, but it can be fixed by adding `Monads.OptionMonadWP` to the list of imports in that file

File: lib/ExtraCorres.thy [hunk 1]
```diff
@@ -238,4 +238,224 @@ lemma hoare_from_abs_inv:
...
+                                        \<and> whileLoop_terminates C' B' r s}"
+               in not_snd_whileLoop)
+    apply (insert assms)[1]
+    apply blast
+   apply (rename_tac conc_r s)
+   apply (clarsimp simp: validNF_def)
+   apply (intro conjI)
+    apply (intro hoare_vcg_conj_lift_pre_fix; (solves wpsimp)?)
+      apply (prop_tac "\<exists>abs_r. rrel abs_r conc_r")
+       apply (insert assms)[1]
```
Comment (Xaphiosis) [inline lib/ExtraCorres.thy:407]: insert with [1] shouldn't need the [1] as insert does not affect other subgoals... I claim these should all have the [1] removed in this lemma and any other lemmas that use this pattern

File: lib/clib/Corres_UL_C.thy [hunk 2]
```diff
@@ -56,6 +56,20 @@ lemma exec_handlers_use_hoare_nothrow:
...
 
+lemma exec_handlers_use_hoare_nothrow_hoarep:
+  assumes ce: "E \<turnstile>\<^sub>h \<langle>c # hs, s'\<rangle> \<Rightarrow> (n, t)"
+  and   asms: "s' \<in> R'"
+  and valid': "E \<turnstile> R' c Q'"
+  shows "E \<turnstile> \<langle>c, Normal s'\<rangle> \<Rightarrow> t \<and> isNormal t"
+  apply (insert assms)
+  apply (drule hoare_sound)
+  apply (clarsimp simp: cvalid_def HoarePartialDef.valid_def)
+  apply (erule exec_handlers.cases)
```
Comment (Xaphiosis) [inline lib/clib/Corres_UL_C.thy:68]: fastforce should be able to handle everything from here, possibly the erule as well when given as `elim!`

File: lib/clib/CCorresLemmas.thy [hunk 3]
```diff
@@ -1036,4 +1033,122 @@ lemma ccorres_Guard_True_Seq:
...
+     subgoal by (erule ccorresE[OF body_ccorres])
+                (fastforce simp: no_fail_def nf[simplified no_fail_def] dest: EHOther)+
+    apply clarsimp
+    apply (prop_tac "G s'")
+     apply (fastforce dest: use_valid intro: body_inv)
+    apply (prop_tac "inter_t \<in> G'")
+     apply (fastforce dest: hoarep_exec[rotated] intro: body_inv)
+    apply (drule_tac x=s' in spec)
+    apply (elim impE)
+     apply (drule_tac s'=inter_t and r1="xf t'" in ccorresE_gets_the[OF cond_ccorres]; assumption?)
```
Comment (Xaphiosis) [inline lib/clib/CCorresLemmas.thy:1122]: good

File: lib/Monads/NonDetMonad.thy [hunk 4]
```diff
@@ -722,6 +722,38 @@ where
...
+
+definition
+  whileM :: "('s, bool) nondet_monad \<Rightarrow> ('s, 'a) nondet_monad \<Rightarrow> ('s, unit) nondet_monad" where
+  "whileM C B \<equiv> do
+    c \<leftarrow> C;
+    whileLoop (\<lambda>c s. c) (\<lambda>_. do B; C od) c;
+    return ()
+  od"
+
+definition
```
Comment (Xaphiosis) [inline lib/Monads/NonDetMonad.thy:736]: this one could use a comment for future people to understand

**Comment by Xaphiosis** [comment]
The proofs in `lib/ExtraCorres.thy` look a bit old and written by a less experienced person, could use a refresh. We already discussed the `insert` pattern, for instance.
I have a few comments here and there, but nothing serious. Glad to see more improvements to lib/clib.

**Comment by Xaphiosis** [comment]
> I'd be happy to write a more comprehensive commit message for the first commit, and to remove the `rt` from the commit message of the last commit

Good idea, thumbs up to both.

File: lib/Monads/NonDetMonadVCG.thy [hunk 5]
```diff
@@ -556,6 +556,17 @@ lemma hoare_case_option_wp:
...
   by (cases v) auto
 
+(* Might be useful for forward reasoning, when P is known. *)
+lemma hoare_when_cases:
+  "(\<And>s. \<not>B \<Longrightarrow> P s \<Longrightarrow> Q s)
+    \<Longrightarrow> (B \<Longrightarrow> \<lbrace> P \<rbrace> f \<lbrace> \<lambda>r. Q \<rbrace>)
+    \<Longrightarrow> \<lbrace> P \<rbrace> when B f \<lbrace> \<lambda>r. Q \<rbrace>"
+  by (cases B; simp add: valid_def return_def)
+
+lemma bind_dummy_ret_val:
```
[the remark this answers is not in the document]
Comment (michaelmcinerney) [reply lib/Monads/NonDetMonadVCG.thy:566]: Yes

File: lib/Monads/NonDetMonad.thy [hunk 6]
```diff
@@ -722,6 +722,38 @@ where
 notation (output)
   whileLoopE  ("(whileLoopE (_)//  (_))" [1000, 1000] 1000)
 
+
+section "More Monadic Combinators"
```
[the remark this answers is not in the document]
Comment (lsf37) [reply lib/Monads/NonDetMonad.thy:726]: I agree with the Misc/More/Extra concern (the name is probably my fault), but I do think they should go into their own section, because there is a foundational difference between these combinators and the ones we had before.

For all of these new ones, conditions can themselves be monads (which is why they are `ifM` etc). We have explicitly avoided that so far, because it is annoying to reason about constructs where tests can have side effects. In `MCS` we finally hit loops and conditions in C where there was no good way to avoid that any more, so I gave up on my resistance to adding them to the library, but I think it's worth pointing out that these are different to the other ones.

So the question is what is a good section title? Maybe `Combinators that have conditions with side effects`?

File: lib/ExtraCorres.thy (hunk 1 above)
Comment (lsf37) [reply lib/ExtraCorres.thy:407]: `insert` does affect all subgoals

File: lib/Monads/NonDetMonad.thy (hunk 4 above)
Comment (lsf37) [reply lib/Monads/NonDetMonad.thy:736]: I think I wrote that one. What comment would you like? It's `ifM`..

Comment (lsf37) [reply lib/Monads/NonDetMonad.thy:736]: (perfectly happy to add something, just not sure which bit is unclear, since I wrote it :-))

File: lib/Monads/NonDetMonadVCG.thy (hunk 5 above)
[the remark this answers is not in the document]
Comment (lsf37) [reply lib/Monads/NonDetMonadVCG.thy:566]: We should probably call this `bind_K_bind_eq` or `bind_eq_K_bind` or something like that. `K_bind` is the name for the bind without return value.

File: lib/ExtraCorres.thy (hunk 1 above)
Comment (Xaphiosis) [reply lib/ExtraCorres.thy:407]: for real? that's crazy! I take that comment back then, but it's still a proof smell I'd rather not keep around :/

File: lib/Monads/NonDetMonad.thy (hunk 6 above)
[the remark this answers is not in the document]
Comment (Xaphiosis) [reply lib/Monads/NonDetMonad.thy:726]: Ah, yes, that is what comments/titles should be for. Without deep examination I didn't figure out they should be a special class. Thumbs up.

File: lib/ExtraCorres.thy (hunk 1 above)
Comment (michaelmcinerney) [reply lib/ExtraCorres.thy:407]: I'm sure those old proofs of mine could be substantially improved. But one other reason for restricting things with an `(insert blah)[1]` (apart from `fastforce` instantiation things incorrectly) is that with many assumptions, it really clogs the proof state. These low-level proofs are sometimes not that pleasant and it seems nice to have at least a few points in the proof where someone can put their cursor and see a proof state that makes *some* sense

Comment (lsf37) [reply lib/ExtraCorres.thy:407]: Yes, I'd usually go for `using assms` these days, but that doesn't work if it's followed by `drule`, because it wants to do rule chaining. No real nice option for this specific case that I can see.

File: lib/Monads/NonDetMonad.thy (hunk 4 above)
Comment (Xaphiosis) [reply lib/Monads/NonDetMonad.thy:736]: I think the section title / comment for combinators with conditions that have side effects will take care of this, as it then becomes clear what's being done here.

File: lib/ExtraCorres.thy (hunk 1 above)
Comment (Xaphiosis) [reply lib/ExtraCorres.thy:407]: In this particular proof, there's lots of `apply (insert assms)[1]` followed by a method that solves the subgoal. In most cases, you can either give assms to the method (simp/fastforce/etc) or use `using`. Maybe even something like `subgoal using assms by fastforce` or `subgoal using assms by - blast` ... I'm not seeing the case with the assms followed by drule in this proof at least.

**Comment by lsf37** [comment]
https://github.com/seL4/l4v/pull/569 is now merged, so if you rebase over that the tests might work now.

**Comment by michaelmcinerney** [comment]
Rebased over #569 and now testing. I'll make a few more changes, including updating the proofs in `ExtraCorres.thy`

**Comment by michaelmcinerney** [comment]
I have made the new proofs in `ExtraCorres.thy` nicer. There are failures in `LibTest`, which I'll look at now

File: lib/Monads/NonDetMonadVCG.thy (hunk 5 above)
[the remark this answers is not in the document]
Comment (michaelmcinerney) [reply lib/Monads/NonDetMonadVCG.thy:566]: This is actual in `master` (in Refine) with the name `bind_dummy_ret_val`. I think it was just that `rt` moved it to `Lib`, and maybe it's also used in AInvs for `rt` now too. Should I do the renaming?

[the remark this answers is not in the document]
Comment (michaelmcinerney) [reply lib/Monads/NonDetMonadVCG.thy:566]: I suppose I should at least remove the duplicates from Refine. But I just wanted to make sure that we're happy for this PR to touch things outside of lib and clib.

And happy to do the renaming still, but I quite like the current name: the lemma is only applicable when the return value is a dummy, and it's not claiming equality between `K_bind` and `bind`

[the remark this answers is not in the document]
Comment (michaelmcinerney) [reply lib/Monads/NonDetMonadVCG.thy:566]: Any thoughts?

File: lib/ExtraCorres.thy [hunk 7]
```diff
@@ -238,4 +238,135 @@ lemma hoare_from_abs_inv:
   using assms
   by (fastforce intro: hoare_from_abs[where R=\<top> and S=\<top> and R'=\<top> and Q="\<lambda>_. P" , simplified])
 
+lemma in_whileLoop_corres:
+  assumes body_corres:
+   "\<And>r r'. rrel r r' \<Longrightarrow>
```
Comment (Xaphiosis) [inline lib/ExtraCorres.thy:243]: nitpick: indent under `assumes` should be 2 spaces

File: lib/ExtraCorres.thy [hunk 8]
```diff
@@ -238,4 +238,135 @@ lemma hoare_from_abs_inv:
...
+    apply (fastforce simp: rrel2)
+   apply clarsimp
+   apply (rule_tac P="\<lambda>s'. \<exists>s. (s, s') \<in> srel \<and> (P and C abs_r) s \<and> P' s' \<and> C' conc_r s'"
+                   in no_fail_pre)
+    apply (insert cond body_corres)
+    apply (fastforce intro: corres_u_nofail simp: pred_conj_def)
+   apply fastforce
+  apply (fastforce intro: wf_subset[OF whileLoop_terminates_wf[where C=C']])
+  done
+
```
Comment (Xaphiosis) [inline lib/ExtraCorres.thy:371]: I like these proofs much better now, thank you!

File: lib/Monad_Lists.thy [hunk 9]
```diff
@@ -22,25 +22,31 @@ lemma mapME_Nil : "mapME f [] = returnOk []"
...
+    "\<And>m x xs y ys. zipWithM_x m (x # xs) (y # ys) = do m x y; zipWithM_x m xs ys od"
     by (simp add: zipWithM_x_def sequence_x_def zipWith_def)
-  have IH: "\<lbrace>P\<rbrace> zipWithM_x m as bs \<lbrace>\<lambda>rv. P\<rbrace>"
-    by fact
-  show ?case
-    by (simp add: zipWithM_x_Cons) (wp IH x)
+  have zipWithM_x_Nil:
+    "\<And>m xs. zipWithM_x m xs [] = return ()"
+    by (simp add: zipWithM_x_def sequence_x_def zipWith_def)
+   show ?case
```
Comment (Xaphiosis) [inline lib/Monad_Lists.thy:40]: `show` should align with `have`, not be under it

File: lib/Monads/NonDetMonadVCG.thy (hunk 5 above)
[the remark this answers is not in the document]
Comment (Xaphiosis) [reply lib/Monads/NonDetMonadVCG.thy:566]: Fine to remove the duplicates in this PR as a separate commit. No real opinion on the name, I'm surprised we need this lemma at all.

**Comment by michaelmcinerney** [comment]
I think all comments, apart from the renaming of `bind_dummy_ret_val`, have now been addressed

**Comment by michaelmcinerney** [comment]
And now with improvements to the commit messages, as promised

**Comment by Xaphiosis** [comment]
> And now with improvements to the commit messages, as promised

Content-wise, I'm happy with it now.  Commit-wise as well after you squash stuff. The `Clean up corres rules for whileLoop` commit doesn't have a squash or a `lib:` prefix, so I'm not sure where it belongs, please don't forget about it.

**Review by Xaphiosis — APPROVED** [review]

**Review by lsf37 — APPROVED** [review]
